US08012998B2
b) 2-{(SR)-1-[(3RS,4SR)-4-(3,4-Dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-trifluoromethyl-pyridine (XII-B-4)
To a solution of 2-{(SR)-1-[(3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-trifluoromethyl-pyridine 0.45 g (0.91 mmol) dissolved in toluene (5 mL) were added 0.30 mL (2.7 mmol) of 1-chloroethyl chloroformate and 0.46 mL of Hunig's base. The reaction mixture was heated at 100° C. for one hour. After cooling down to RT, volatiles were removed under vacuo and the crude was dissolved in MeOH (5 mL). The reaction mixture was heated at 85° C. for 30 minutes and after cooling down to RT, volatiles were removed under vacuo and the residue was directly purified on column chromatography (SiO2, CH2Cl2/MeOH 9:1) yielded 0.32 g (87%) of the title compound as a light yellow oil. ES-MS m/e: 405.9 (M+H+).

reactant | 2-{(SR)-1-[(3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-trifluoromethyl-pyridine | 0.91 mmol, 0.45 g | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(C)OC1=NC=C(C=C1)C(F)(F)F | C25H23Cl2F3N2O
reactant | 1-chloroethyl chloroformate | 2.7 mmol, 0.30 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | Hunig's base | 0.46 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-{(SR)-1-[(3RS,4SR)-4-(3,4-Dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-trifluoromethyl-pyridine | 0.32 g, 87% | ClC=1C=C(C=CC1Cl)C1C(CNC1)C(C)OC1=NC=C(C=C1)C(F)(F)F | C18H17Cl2F3N2O
